US03931239
A solution of 4,5-dimethyl-6-oxo-7-bromo-7-propyl-7,8-dihydro-6H-indeno[5,4-b]furan-2-carboxylic acid (1.2 g., 0.0033 mole) and 1,5-diazabicyclo [4.3.0]-5-nonene (0.8 ml.) in dimethylsulfoxide (8 ml.) is stirred at 25°C. for one hour then treated with water (30 ml.) hydrochloric acid (5 ml.) and ethanol (20 ml.) affording 4,5-dimethyl-6-oxo-7-propyl-6H-indeno[5,4-b]-furan-2-carboxylic acid as a red solid which melts at 242°C. after recrystallization from nitromethane.

reactant | 4,5-dimethyl-6-oxo-7-bromo-7-propyl-7,8-dihydro-6H-indeno[5,4-b]furan-2-carboxylic acid | 0.0033 mole, 1.2 g | CC1=C(C=2C(C(CC2C2=C1OC(=C2)C(=O)O)(CCC)Br)=O)C | C17H17BrO4
reactant | 1,5-diazabicyclo [4.3.0]-5-nonene | 0.8 ml | C1CC2=NCCCN2C1 | C7H12N2
reactant | water | 30 ml | O | H2O
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | dimethylsulfoxide | 8 ml | CS(=O)C | C2H6OS
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4,5-dimethyl-6-oxo-7-propyl-6H-indeno[5,4-b]-furan-2-carboxylic acid | CC1=C(C=2C(C(=CC2C2=C1OC(=C2)C(=O)O)CCC)=O)C | C17H16O4
